US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid [(SR)-cyclopropyl-(5-methyl-[1,2,4]oxadiazol-3-yl)-methyl]-amide
The title compound was synthesized in analogy to Example 6, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g) and α-cyclopropyl-5-methyl-1,2,4-oxadiazole-3-methanamine (CAN 1291557-80-6) as starting materials, and isolated (95 mg, 86%) as light yellow solid; LC-MS (UV peak area, ESI) 100%, 370.1876 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | α-cyclopropyl-5-methyl-1,2,4-oxadiazole-3-methanamine | C1(CC1)C(N)C1=NOC(=N1)C | C7H11N3O
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid [(SR)-cyclopropyl-(5-methyl-[1,2,4]oxadiazol-3-yl)-methyl]-amide | C1(CC1)C(C1=NOC(=N1)C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C19H23N5O3
